US06583162B1
5-Chloro-3-[(E)-2-(2-pyridinyl)ethenyl]-2-pyridinamine
The title compound was prepared from 3-bromo-5-chloro-2-pyridinamine and 2-vinylpyridine. Purification by column chromatography on silica gel eluting with methylene chloride—methanol (95:5) and repeated using hexane—EtOAc (70:30 to 50:50) as eluant gave a yellow solid:

reactant | 3-bromo-5-chloro-2-pyridinamine | BrC=1C(=NC=C(C1)Cl)N | C5H4BrClN2
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
product | 5-Chloro-3-[(E)-2-(2-pyridinyl)ethenyl]-2-pyridinamine | ClC=1C=C(C(=NC1)N)\C=C\C1=NC=CC=C1 | C12H10ClN3
